US08957069B2
5-bromo-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one
Bromine (8.7 mL, 169 mmol) was added to a mixture of acetonitrile (200 mL) containing 2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one (30.7 g, 161 mmol) synthesized in Reference Example 118 and sodium acetate (14.5 g, 177 mmol), and the mixture was stirred at room temperature for 2 hours. After that, the reaction solution was poured into 5% sodium sulfite aqueous solution, and extraction was performed using ethyl acetate. The extract was washed with water and saturated saline, and dried using anhydrous magnesium sulfate. After that, the solvent was removed under reduced pressure. The residue was purified by silica gel chromatography (hexane-ethyl acetate 50:1-9/1), and crystallization was performed using methanol to give 26.2 g of the title compound (yield: 61%).

reactant | Bromine | 169 mmol, 8.7 mL | BrBr | Br2
reactant | 2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one | 161 mmol, 30.7 g | CC1(OC2=C(C1=O)C(=CC(=C2)C)C)C | C12H14O2
reactant | sodium acetate | 177 mmol, 14.5 g | C(C)(=O)[O-].[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 5-bromo-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one | 26.2 g, yield: 61% | BrC=1C(=CC2=C(C(C(O2)(C)C)=O)C1C)C | C12H13BrO2
